US05371291
Into a 500 mL flask containing 156 mL of 96% (w/w) sulfuric acid are added 52.5 g of resorcinol. Before the resorcinol completely dissolves, another 156 mL of 96% (w/w) sulfuric acid and another 52.5 g of resorcinol are added. The resulting exotherm causes the temperature of the mixture to increase to as much as 90° C. When this the temperature is reached, or when the temperature of the mixture no longer increases, the mixture is heated to 110° C. for two hours. Then, the mixture is cooled to 15° C., after which time 120 g of chlorine are added at such a rate to maintain a temperature of 15° C. The mixture is then poured into a 2 liter flask containing 450 g of ice and 400 mL of water. To the resulting aqueous phase is added aqueous sodium hydroxide (prepared by dissolving 76 g of sodium hydroxide into 150 mL of water) followed by a 24-hour reflux of the mixture. The temperature of the solution is reduced to room temperature, and after extraction by ethyl ether and ether evaporation, the residual mixture, which contains resorcinol and 2-chlororesorcinol, is subjected to flash column chromatography, using CH2Cl2 as eluent. This affords 29 g (21% yield) of the pure 2-chlororesorcinol (M.P. 97° C.).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | resorcinol | 52.5 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | resorcinol | 52.5 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | chlorine | 120 g | ClCl | Cl2
reactant | sodium hydroxide | 150 mL, 76 g | [OH-].[Na+]
solvent | water | 400 mL | O | H2O
product | 2-chlororesorcinol | 29 g, 21% yield | ClC1=C(O)C=CC=C1O | C6H5ClO2
